US06649772B2
1-Bromopyrene (10 mmol), C6H5NH2 (12 mmol), Pd(dba)2 (0.20 mmol), P(t-Bu)3 (0.20-0.30 mmol) and sodium t-butoxide (1.44 g, 15 mmol) were charged in a two-necked flask under a nitrogen atmosphere. Toluene (25 ml) was added and the resulting violet solution was stirred at room temperature for 8 hours. During this period the contents of the flask became a pale yellow fluorescent solution. The reaction was quenched with water (30 ml) and the organic layer was taken into 100 ml diethyl ether, washed with brine solution, and dried over MgSO4. Evaporation of the solvent under vacuum resulted in a yellow solid that was adsorbed in silica gel and purified by column chromatography using dichloromethane/hexane (1:1) as eluant to produce phenyl-pyren-1-yl-amine (89%).

reactant | 1-Bromopyrene | 10 mmol | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | C6H5NH2 | 12 mmol | C1(=CC=CC=C1)N | C6H7N
reactant | P(t-Bu)3 | 0.20-0.30 mmol | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium t-butoxide | 15 mmol, 1.44 g | CC(C)([O-])C.[Na+]
catalyst | Pd(dba)2 | 0.20 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | Toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | phenyl-pyren-1-yl-amine | 89% | C1(=CC=CC=C1)NC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C22H15N
